US07645771B2
Preparation of 2,2,2-trifluoro-N-{1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentyl}acetamide
2,2,2-trifluoro-N-{1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentyl}acetamide was obtained from treating 1,1-dimethylethyl {1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentyl}carbamate (0.627 g, 0.95 mmol) with HCl as outlined in the procedure for Example 890 to form 1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentanamine (0.528 g, 99%). 1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentanamine (0.050 g, 0.09 mmol), trifluoroacetic anhydride (0.019 g, 0.09 mmol) and DIEA (0.034 g, 0.534 mmol) were reacted following the procedure outlined in Example 890 to give the title compound, 2,2,2-trifluoro-N-{1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentyl}acetamide (0.027 g, 46%) as an oil. ES-LCMS m/z 654 (M+1).

reactant | 1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentanamine | 0.09 mmol, 0.050 g | FC=1C=C(C=CC1)C1(CCN(CC1)C(=O)C1(CCCC1)N)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C34H44FN5O
reactant | trifluoroacetic anhydride | 0.09 mmol, 0.019 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | DIEA | 0.534 mmol, 0.034 g | CCN(C(C)C)C(C)C | C8H19N
product | 2,2,2-trifluoro-N-{1-[(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-1-piperidinyl)carbonyl]cyclopentyl}acetamide | 0.027 g, 46% | FC(C(=O)NC1(CCCC1)C(=O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F)(F)F | C36H43F4N5O2
